US07456164B2
Intermediate 15: 4-(3-Chloro-Propyl)-piperazine-1-carboxylic acid ethyl ester
Piperazine-1-carboxylic acid ethyl ester (3.0 g, 18.9 mmol), K2CO3 (2.8 g, 1.1 eq.), DMF (30 ml, 10 vol) and 1-bromo-3-chloropropane (1.8 ml, 18.9 mmol, 1 eq.) were reacted together at room temperature overnight. The reaction was quenched with water (100 ml) and extracted with DCM (3×50 ml). The combined DCM extracts were dried over MgSO4, filtered washed with DCM and concentrated in vacuo to give the title compound (3.1 g, 70%) as a pale yellow oil.

reactant | Piperazine-1-carboxylic acid ethyl ester | 18.9 mmol, 3.0 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | K2CO3 | 2.8 g, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-chloropropane | 18.9 mmol, 1.8 ml, 1 eq. | BrCCCCl | C3H6BrCl
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-(3-Chloro-Propyl)-piperazine-1-carboxylic acid ethyl ester | 3.1 g, 70% | C(C)OC(=O)N1CCN(CC1)CCCCl | C10H19ClN2O2
